US04999352
7.52 g (40 mmol) of 1-(3-methoxybenzyl)-imidazole and 4.65 g (40 mmol) of TMEDA in 80 ml of absolute THF were metallized using 53.5 ml of 1.5 molar n-butyllithium/hexane solution according to the procedure described in Example 19, and the product was reacted with 5.00 g of 90% purity (≅40 mmol) 2,2-dimethyl-4-pentenaldehyde. Work-up was effected analogously to that in Example 19. The extract residue (12.2 g) was chromatographed as described in Example 19 on a silica gel S/CH2Cl2 column (φ 3.5 cm, height 40 cm), and the combined fractions which contained the compound desired (amount 6.3 g) were subsequently chromatographed a second time on a silica gel S/CH2Cl2 column (φ 2.4 cm, height 88 cm). A group of fractions (2.5 g) from the second chromatography crystallized from a hexane/diisopropyl ether 3:1 solution. After isolation of the substance, 0.77 g (≅6.3% yield) of pure 3,3-dimethyl-1-(1-imidazolyl)-1-(3-methoxyphenyl)5-hexen-2-ol of melting point 83° C. were obtained. C18H24N2O2 (300.41) calculated: C 71.97 H 8.05 N 9.33% found: C 68.9 H 8.0 N 8.6%.

reactant | 1-(3-methoxybenzyl)-imidazole | 40 mmol, 7.52 g | COC=1C=C(CN2C=NC=C2)C=CC1 | C11H12N2O
reactant | TMEDA | 40 mmol, 4.65 g | CN(C)CCN(C)C | C6H16N2
reactant | n-butyllithium hexane | 1.5 molar, 53.5 ml | C(CCC)[Li].CCCCCC
reactant | 2,2-dimethyl-4-pentenaldehyde | 40 mmol | CC(C=O)(CC=C)C | C7H12O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 3,3-dimethyl-1-(1-imidazolyl)-1-(3-methoxyphenyl)5-hexen-2-ol | 0.77 g, 6.3% yield | CC(C(C(C1=CC(=CC=C1)OC)N1C=NC=C1)O)(CC=C)C | C18H24N2O2
